US08492371B2
(E)-N′-(3-tert-butyl-1H-pyrazol-5-yl)-N,N-dimethylformimidamide
A mixture of 3-tert-butyl-1H-pyrazol-5-amine (5 g, 36 mmol, Alfa-aesar) and N,N-dimethylformamide dimethylacetal (153 mL, 1078 mmol, Aldrich) was refluxed overnight. The reaction mixture was then cooled, concentrated under reduced pressure and the residue was purified by column chromatography using an Analogix® Intelliflash280™ (SiO2, 0-5% methanol in dichloromethane) to provide 6.9 g (99%) of the title compound. MS (ESI+) m/z 195 (M+H)+.

reactant | 3-tert-butyl-1H-pyrazol-5-amine | 36 mmol, 5 g | C(C)(C)(C)C1=NNC(=C1)N | C7H13N3
reactant | N,N-dimethylformamide dimethylacetal | 1078 mmol, 153 mL | COC(N(C)C)OC | C5H13NO2
product | (E)-N′-(3-tert-butyl-1H-pyrazol-5-yl)-N,N-dimethylformimidamide | 6.9 g, 99% | C(C)(C)(C)C1=NNC(=C1)/N=C/N(C)C | C10H18N4
